US07666882B2
Step B: Preparation of Ethyl 1-(3-chloro-2-pyridinyl)-2,3-dihydro-3-oxo-1H-pyrazole-5-carboxyate
To a suspension of ethyl 1-(3-chloro-2-pyridinyl)-3-pyrazolidinone-5-carboxylate (i.e. the product of Step A) (27 g, 100 mmol) stirred in dry acetonitrile (200 mL) was added sulfuric acid (20 g, 200 mmol) in one portion. The reaction mixture thinned to form a pale green, nearly clear solution before thickening again to form a pale yellow suspension. Potassium persulfate (33 g, 120 mmol) was added in one portion, and then the reaction mixture was heated at gentle reflux for 3.5 hours. After cooling using an ice bath, a precipitate of white solid was removed by filtration and discarded. Concentration of the acetonitrile mother liquor and then dilution with water (400 mL) was followed by extraction three times with ethyl ether (700 mL total). The ethyl ether phase was concentrated to a reduced volume (75 mL) from which precipitated an-off white solid (3.75 g), which was collected by filtration. The ether mother liquor was further concentrated to yield a second crop of an off-white precipitate (4.2 g), which was collected by filtration. Further precipitation of an off-white solid (4.5 g) from the aqueous phase yielded a combined total of 12.45 g of the title compound.

reactant | ethyl 1-(3-chloro-2-pyridinyl)-3-pyrazolidinone-5-carboxylate | CCOC(=O)C1CC(=O)NN1C2=C(C=CC=N2)Cl | C11H12ClN3O3
reactant | sulfuric acid | 200 mmol, 20 g | S(O)(O)(=O)=O | H2O4S
reactant | Potassium persulfate | 120 mmol, 33 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | Ethyl 1-(3-chloro-2-pyridinyl)-2,3-dihydro-3-oxo-1H-pyrazole-5-carboxyate | 4.2 g | ClC=1C(=NC=CC1)N1NC(C=C1C(=O)OCC)=O | C11H10ClN3O3
